US04684658
A suspension of 5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid (8.8 g) in a mixture of thionyl chloride (6.25 cc), dimethylformamide (0.05 cc) and 1,2dichloroethane (100 cc) is heated under reflux with stirring for 2 hours and 30 minutes. The reaction mixture is cooled to a temperature of about 20° C. and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. The residue obtained is suspended in cyclohexane (150 cc) and the solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. The same procedure is repeated twice. 7- Chloroformyl-5-(3-pyridyl)-pyrrolo[1,2-c]thiazole hydrochloride (10 g) is thus obtained in the form of cream crystals melting at 220° C.

reactant | 5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid | 8.8 g | N1=CC(=CC=C1)C1=CC(=C2N1CSC2)C(=O)O | C12H10N2O2S
reactant | dimethylformamide | 0.05 cc | CN(C=O)C | C3H7NO
reactant | 1,2dichloroethane | 100 cc | ClCCCl | C2H4Cl2
solvent | thionyl chloride | 6.25 cc | S(=O)(Cl)Cl | Cl2OS
solvent | cyclohexane | 150 cc | C1CCCCC1 | C6H12
product | 7- Chloroformyl-5-(3-pyridyl)-pyrrolo[1,2-c]thiazole hydrochloride | 10 g | Cl.ClC(=O)C=1C=C(N2CSCC21)C=2C=NC=CC2 | InChI=1S/C12H9ClN2OS.ClH/c13-12(16)9-4-10(8-2-1-3-14-5-8)15-7-17-6-11(9)15;/h1-5H,6-7H2;1H
